US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide
A mixture of 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid (5.2 g), 1-hydroxybenzotriazole monohydrate (3.6 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.5 g) and N,N-dimethylformamide (200 mL) was stirred at 80° C. for 1 hr. The reaction mixture was cooled to room temperature and 10% aqueous ammonia (12 mL) was added, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was crystallized from diethyl ether to give the title compound (5.18 g, yield 100%) as pale-yellow powder.

reactant | 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid | 5.2 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C15H12N2O5S
reactant | 1-hydroxybenzotriazole monohydrate | 3.6 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 12 mL | N | H3N
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide | 5.18 g, yield 100% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(=O)N | C15H13N3O4S
